US07538121B2
4,4-Dimethyl-7-nitro-1-trifluoroacetyl-1,2,3,4-tetrahydroquinoline
To a suspension of 4,4-dimethyl-1,2,3,4-tetrahydroquinoline (W. W. Hoffman, A. R. Kraska, European Patent Application No. EP 0 130 795) (470 mg, 2.92 mmol) in concentrated sulfuric acid (5 ml) at 0° C. was added dropwise a mixture of concentrated nitric acid (0.3 ml) in concentrated sulfuric acid (2.8 ml) such that the temperature of the mixture remained below 5C. The reaction was allowed to warm to ambient temperature then poured onto ice, basified with 12M NaOH solution and extracted with EtOAc. The extracts were dried and concentrated in vacuo to give the crude 4,4-dimethyl-7-nitro-1,2,3,4-tetrahydroquinoline (514 mg) which was then dissolved in DCM (12 ml) and triethylamine (533 ul, 3.82 mmol) and trifluoroacetic anhydride (357 ul, 2.51 mmol) were added. The mixture was stirred at ambient temperature for 18 h then diluted with further DCM, washed with water, dried over MgSO4 and concentrated in vacuo to give the crude product. Purification by column chromatography eluting with 0-30% EtOAc/40-60° C. petroleum ether gave the title compound as an orange solid (341 mg). 1H NMR (250 MHz, CDCl3) δ (ppm): 8.62 (br, 1H), 8.06 (dd, 1H), 7.55 (d, 1H), 3.91 (m, 2H), 1.96 (m, 2H), 1.39 (s, 6H).

reactant | 4,4-dimethyl-1,2,3,4-tetrahydroquinoline | CC1(CCNC2=CC=CC=C12)C | C11H15N
reactant | nitric acid | 0.3 ml | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | 12M | [OH-].[Na+]
reactant | triethylamine | 3.82 mmol, 533 ul | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 2.51 mmol, 357 ul | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 2.8 ml | S(O)(O)(=O)=O | H2O4S
solvent | DCM | 12 ml | C(Cl)Cl | CH2Cl2
product | 4,4-Dimethyl-7-nitro-1-trifluoroacetyl-1,2,3,4-tetrahydroquinoline | 341 mg | CC1(CCN(C2=CC(=CC=C12)[N+](=O)[O-])C(C(F)(F)F)=O)C | C13H13F3N2O3
